US06740766B2
As in Example 1, 1,3-cycloheptadiene (1.00 g, 10.62 mmol), trichlorosilane (5.76 g, 42.52 mmol) and tetrabutylphosphonium chloride (0.31 g, 1.05 mmol) were added in a 25 mL stainless steel tube under nitrogen atmosphere. After sealing the cylinder with a cap, the reactor was maintained at 180° C. for 18 hours. The resulting mixture was distilled to yield 0.96 g (yield: 25%) of 2,6-bis(trichlorosilyl)-1-heptene.

reactant | 1,3-cycloheptadiene | 10.62 mmol, 1.00 g | C1=CC=CCCC1 | C7H10
reactant | trichlorosilane | 42.52 mmol, 5.76 g | Cl[SiH](Cl)Cl | Cl3HSi
catalyst | tetrabutylphosphonium chloride | 1.05 mmol, 0.31 g | [Cl-].C(CCC)[P+](CCCC)(CCCC)CCCC
product | 2,6-bis(trichlorosilyl)-1-heptene | 0.96 g, yield: 25% | Cl[Si](C(=C)CCCC(C)[Si](Cl)(Cl)Cl)(Cl)Cl | C7H12Cl6Si2
